US07517873B2
A mixture of 10 g of Raney-nickel 2800 was transferred to a 500 mL hydrogenation vessel and washed three times with 40 mL of methanol. Then, 180 mL of methanol and 25.0 g (0.177 mole) of 2-cyano-2-methylpropanoic acid ethyl ester was added and the mixture agitated on a Paar hydrogenator under a 50 psi atmosphere of hydrogen for 24 hours. The mixture was filtered through Celite, washing the filter pad with methanol, and then concentrated under reduced pressure to give 21.98 g of 3-amino-2,2-dimethyl-propanoic acid methyl ester, which was used without further purification.

reactant | 2-cyano-2-methylpropanoic acid ethyl ester | 0.177 mole, 25.0 g | C(C)OC(C(C)(C)C#N)=O | C7H11NO2
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | 10 g | [Ni] | Ni
solvent | methanol | 180 mL | CO | CH4O
product | 3-amino-2,2-dimethyl-propanoic acid methyl ester | 21.98 g | COC(C(CN)(C)C)=O | C6H13NO2
